US08466290B2
Synthesis of 6-acetoxy-2-phenyl-4-quinolinecarboxylic acid
An aqueous sodium hydroxide solution (0.3184 g/30.0 mL) was added to a tetrahydrofuran (30.0 mL) solution of 6-hydroxy-2-phenyl-4-quinolinecarboxylic acid ethyl ester (1.1120 g, 3.79 mmol) obtained above, and the mixture was stirred at room temperature for 3 hours. To the reaction solution, dichloromethane (30.0 mL) and acetic anhydride (2.0 mL) were added. The mixture was washed with water and saturated saline and dried over anhydrous sodium sulfate, and then, the solvent was distilled off. The obtained residue was purified by silica gel column chromatography to obtain the title compound (1.0903 mg, 3.55 mmol) as a pale yellow powder.

reactant | sodium hydroxide | 30.0 mL, 0.3184 g | [OH-].[Na+]
reactant | tetrahydrofuran | 30.0 mL | O1CCCC1 | C4H8O
reactant | 6-hydroxy-2-phenyl-4-quinolinecarboxylic acid ethyl ester | 3.79 mmol, 1.1120 g | C(C)OC(=O)C1=CC(=NC2=CC=C(C=C12)O)C1=CC=CC=C1 | C18H15NO3
reactant | acetic anhydride | 2.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 30.0 mL | ClCCl | CH2Cl2
product | 6-acetoxy-2-phenyl-4-quinolinecarboxylic acid | 3.55 mmol, 1.0903 mg | C(C)(=O)OC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)C(=O)O | C18H13NO4
